US06429207B1
Preparation of N-(1-Adamantyl)-2-quinoxalinecarboxamide (91)
2-Quinoxaloyl chloride (0.84 g, 4.4 mmol) was added to a solution of 1-adamantanamine (0.60 g, 4.0 mmol) in pyridine (10 mL). The reaction was then stirred for 30 min. To the stirring reaction mixture was added water (100 mL) which caused the product to precipitate. This precipitate was filtered, washed with water (3×25 mL), and dried under high vacuum for 16 h. This provided 1.00 g (82%) of (91):

reactant | 2-Quinoxaloyl chloride | 4.4 mmol, 0.84 g | N1=C(C=NC2=CC=CC=C12)C(=O)Cl | C9H5ClN2O
reactant | 1-adamantanamine | 4.0 mmol, 0.60 g | C12(CC3CC(CC(C1)C3)C2)N | C10H17N
reactant | water | 100 mL | O | H2O
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | N-(1-Adamantyl)-2-quinoxalinecarboxamide | C12(CC3CC(CC(C1)C3)C2)NC(=O)C2=NC3=CC=CC=C3N=C2 | C19H21N3O
